### PR TITLE
Merge `entropic_PFR_conjecture_improv'` and `entropic_PFR_conjecture_improv`

### PR DESCRIPTION
**Pull request by Chessing234**
The primed version only differed from the unprimed one in that it returned `AddSubgroup G` instead of `Submodule (ZMod 2) G`. Also fix the constants in the docstring and blueprint from `5/2` and `6` respectively to `11/2`, the value that was actually proved.

### CODE REVIEW

File: PFR/ImprovedPFR.lean [hunk 1]
```diff
@@ -821,26 +821,20 @@ theorem entropic_PFR_conjecture_improv (hpη : p.η = 1 / 8) :
   linarith
 
 /-- `entropic_PFR_conjecture_improv'`: For two $G$-valued random variables $X^0_1, X^0_2$, there is
-some subgroup $H \leq G$ such that $d[X^0_1;U_H] + d[X^0_2;U_H] \le 10 d[X^0_1;X^0_2]$., and
-d[X^0_1; U_H] and d[X^0_2; U_H] are at most 5/2 * d[X^0_1;X^0_2] -/
+some subgroup $H \leq G$ such that $d[X^0_1;U_H] + d[X^0_2;U_H] \le 10 d[X^0_1;X^0_2]$, and
+both $d[X^0_1; U_H]$ and $d[X^0_2; U_H]$ are at most $(11/2) d[X^0_1;X^0_2]$. -/
```
Comment (YaelDillies) [inline PFR/ImprovedPFR.lean]:
```suggestion
both $d[X^0_1; U_H]$ and $d[X^0_2; U_H]$ are at most $\frac{11}2 d[X^0_1;X^0_2]$. -/
```
else this looks like a Legendre symbol

**Review by YaelDillies — COMMENTED** [review]
Might as well merge it with the unprimed version, no?

**Comment by Chessing234** [comment]
merged the individual distance bounds into the unprimed theorem and left improv' as an alias for the blueprint tags

File: PFR/ImprovedPFR.lean [hunk 2]
```diff
@@ -804,43 +804,33 @@ lemma tau_minimizer_exists_rdist_eq_zero :
...
-  have goal₁ : d[p.X₀₁ # U] + d[p.X₀₂ # U] ≤ 10 * d[p.X₀₁ # p.X₀₂] := by
+  have hsum : d[p.X₀₁ # U] + d[p.X₀₂ # U] ≤ 10 * d[p.X₀₁ # p.X₀₂] := by
     have h : τ[X₁ # X₂ | p] ≤ τ[p.X₀₂ # p.X₀₁ | p] := is_tau_min p htau_min p.hmeas2 p.hmeas1
     rw [tau, tau, hpη] at h
     norm_num at h
     have : d[p.X₀₁ # U] ≤ d[p.X₀₁ # X₁] + d[X₁ # U] := rdist_triangle p.hmeas1 hX₁ hU
     have : d[p.X₀₂ # U] ≤ d[p.X₀₂ # X₂] + d[X₂ # U] := rdist_triangle p.hmeas2 hX₂ hU
     linarith
+  refine ⟨AddSubgroup.toZModSubmodule 2 H, Ω', inferInstance, U, inferInstance, hU, hH_unif,
+    hsum, ?_⟩
```
Comment (YaelDillies) [inline PFR/ImprovedPFR.lean]:
```suggestion
  refine ⟨H.toZModSubmodule 2, Ω', inferInstance, U, inferInstance, hU, hH_unif, hsum, ?_⟩
```

File: PFR/ImprovedPFR.lean [hunk 3]
```diff
@@ -804,43 +804,33 @@ lemma tau_minimizer_exists_rdist_eq_zero :
...
   have : d[p.X₀₁ # U] ≤ d[p.X₀₁ # p.X₀₂] + d[p.X₀₂ # U] := rdist_triangle p.hmeas1 p.hmeas2 hU
   have : d[p.X₀₂ # U] ≤ d[p.X₀₂ # p.X₀₁] + d[p.X₀₁ # U] := rdist_triangle p.hmeas2 p.hmeas1 hU
-  refine ⟨H, Ω', inferInstance, U, inferInstance, hU, hH_unif, goal₁, by linarith, by linarith⟩
+  exact ⟨by linarith, by linarith⟩
+
+/-- Alias of `entropic_PFR_conjecture_improv` (kept for blueprint tags). -/
+theorem entropic_PFR_conjecture_improv' (hpη : p.η = 1 / 8) :=
+  entropic_PFR_conjecture_improv p hpη
```
Comment (YaelDillies) [inline PFR/ImprovedPFR.lean]: Can you not update the blueprint instead?

File: PFR/WeakPFR.lean [hunk 4]
```diff
@@ -251,7 +251,7 @@ lemma app_ent_PFR' [mΩ : MeasureSpace Ω] [mΩ' : MeasureSpace Ω'] (X : Ω →
     η := 1/8
     hη := by norm_num
     hη' := by norm_num }
-  obtain ⟨H, Ω'', hΩ'', U, _, hUmeas, hUunif, ineq⟩ := entropic_PFR_conjecture_improv p rfl
+  obtain ⟨H, Ω'', hΩ'', U, _, hUmeas, hUunif, ineq, _, _⟩ := entropic_PFR_conjecture_improv p rfl
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean]:
```suggestion
  obtain ⟨H, Ω'', hΩ'', U, _, hUmeas, hUunif, ineq, -, -⟩ := entropic_PFR_conjecture_improv p rfl
```

File: PFR/ImprovedPFR.lean [hunk 5]
```diff
@@ -878,7 +868,7 @@ lemma PFR_conjecture_improv_aux (h₀A : A.Nonempty) (hA : Nat.card (A + A) ≤
   let p : refPackage Ω₀ Ω₀ G := ⟨UA, UA, UAmeas, UAmeas, 1/8, (by norm_num), (by norm_num)⟩
   -- entropic PFR gives a subgroup `H` which is close to `A` for the Rusza distance
   rcases entropic_PFR_conjecture_improv p (by norm_num)
-    with ⟨H, Ω₁, mΩ₁, UH, hP₁, UHmeas, UHunif, hUH⟩
+    with ⟨H, Ω₁, mΩ₁, UH, hP₁, UHmeas, UHunif, hUH, _, _⟩
```
Comment (YaelDillies) [inline PFR/ImprovedPFR.lean]:
```suggestion
    with ⟨H, Ω₁, mΩ₁, UH, hP₁, UHmeas, UHunif, hUH, -, -⟩
```

**Comment by Chessing234** [comment]
dropped the alias and put 11/2 in the blueprint; also the toZModSubmodule / `-` nits

**Review by YaelDillies — APPROVED** [review]
Looking good!
